US04785104
1-(3,4-Dimethoxyphenyl)-3-(propionyloxymethyl)-4-ethyl-6,7-dimethoxy-isoquinoline
3.83 g (10 mM) of 1-(3,4-dimethoxyphenyl)-3-methyl-4-ethyl-6,7-dimethoxy-isoquinoline N-oxide is refluxed with 20 ml of propionic anhydride for 1.5 hours. The solution is evaporated at reduced pressure, the residue is suspended in 100 ml of water, filtered, washed with 3×15 ml of water, dried at reduced pressure at room temperature, recrystallized from 7 ml of 99.5% ethanol, filtered, washed with 3×8 ml of ethanol and dried at 80° to 90° C. Yield 2.70 g (61.5%), m.p. 125° to 127° C.

reactant | 1-(3,4-dimethoxyphenyl)-3-methyl-4-ethyl-6,7-dimethoxy-isoquinoline N-oxide | 10 mM, 3.83 g | COC=1C=C(C=CC1OC)C1=[N+](C(=C(C2=CC(=C(C=C12)OC)OC)CC)C)[O-] | C22H25NO5
reactant | propionic anhydride | 20 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | 1-(3,4-Dimethoxyphenyl)-3-(propionyloxymethyl)-4-ethyl-6,7-dimethoxy-isoquinoline | COC=1C=C(C=CC1OC)C1=NC(=C(C2=CC(=C(C=C12)OC)OC)CC)COC(CC)=O | C25H29NO6
